US09085540B2
To a mixture of 5-{[(1R,2S)-2-aminocyclohexyl]amino}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (62 mg), ethanol (5 mL), and tetrahydrofuran (3 mL) were added 1H-benzotriazol-1-yl methanol (18 mg) and sodium acetate (15 mg), followed by stirring at room temperature for 7 hours. Sodium triacetoxyborohydride (50 mg) was added thereto under ice-cooling, followed by stirring at room temperature for 12 hours. To the reactant were added ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution, followed by liquid separation. The organic phase was dried over anhydrous magnesium sulfate and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=500:10:1-200:10:1) to obtain 6-ethyl-5-{[(1R,2S)-2-(methylamino)cyclohexyl]amino}-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (43 mg) as a pale yellow solid.

reactant | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 62 mg | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C29H45N9O
reactant | 1H-benzotriazol-1-yl methanol | 18 mg | N1(N=NC2=C1C=CC=C2)CO | C7H7N3O
reactant | sodium acetate | 15 mg | C(C)(=O)[O-].[Na+]
reactant | Sodium triacetoxyborohydride | 50 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-ethyl-5-{[(1R,2S)-2-(methylamino)cyclohexyl]amino}-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 43 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)N[C@H]1[C@H](CCCC1)NC | C30H47N9O
